US08182718B2
Ldo=2-Ethyl-2-(hydroxymethyl)butane-1,4-diol
To a flask were added 1.5 g diethyl ethylmalonate and 80 ml of tetrahydrofuran and the solution was cooled to 5 C. 0.38 g Sodium hydride were added in small portions and the reaction was stirred for 2 hours at 22 C. After cooling to 5 C, 1.6 g of ethyl bromoacetate were added drop wise and the reaction mixture was allowed to stir at 22 C under nitrogen for 16 hours. After quenching with a few drops of water, the solvent was removed and the crude oil was dissolved in 20 ml tert-butanol and 0.91 g sodium borohydride were added. The mixture was heated to reflux under nitrogen and 1 ml methanol was added drop wise. After stirring for 30 minutes at reflux, the mixture was cooled to 22 C and made acidic with slow addition of 3M hydrochloric acid. Following removal of solvent, the product was purified by silica gel chromatography using pure ethyl acetate resulting in a clear, colorless oil, 0.4 g.

reactant | diethyl ethylmalonate | 1.5 g | C(C)C(C(=O)OCC)C(=O)OCC | C9H16O4
reactant | Sodium hydride | 0.38 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1.6 g | BrCC(=O)OCC | C4H7BrO2
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2-Ethyl-2-(hydroxymethyl)butane-1,4-diol | C(C)C(CO)(CCO)CO | C7H16O3
